US06103708
2'-(2-Methoxyethoxymethoxy)-[1,1';3',1"]terphenyl-5'-carboxylic acid methyl ester
At 0° C., to a stirred solution of 2'-(2-methoxyethoxymethoxy)-[1,1';3',1"]terphenyl-5'-carboxylic acid (1.72 g, 4.55 mmol) in THF (4.55 mL) was added 1,8-diazabicyclo[5.4.0]undec-7-ene. After 0.5 h, to the reaction was added iodomethane and the reaction was stirred for 16 h, eventually warming to ambient temperature. The reaction was filtered and the filtrate concentrated. The crude product was dissolved in EtOAc, washed sequentially with sat. aq. NaHCO3 (3×), with 1 N HCl (3×), brine (3×), dried (K2CO3) and concentrated. Purification on Biotage KP-Sil eluting with 20% acetone/hexane gave 1.641 g (92%) of the title compound as a yellow oil. 1H NMR (DMSO-d6) δ 2.77-2.80 (m, 2 H), 2.88-2.91 (m, 2 H), 3.01 (s, 3 H), 3.87 (s, 3 H), 4.40 (s, 2 H), 7.40-7.53 (m, 6 H), 7.60-7.62 (m, 4 H), 7.90 (s, 2 H).

reactant | 2'-(2-methoxyethoxymethoxy)-[1,1';3',1"]terphenyl-5'-carboxylic acid | 4.55 mmol, 1.72 g | COCCOCOC1=C(C=C(C=C1C1=CC=CC=C1)C(=O)O)C1=CC=CC=C1 | C23H22O5
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | N12CCCCCC2=NCCC1 | C9H16N2
reactant | iodomethane | IC | CH3I
solvent | THF | 4.55 mL | C1CCOC1 | C4H8O
product | 2'-(2-Methoxyethoxymethoxy)-[1,1';3',1"]terphenyl-5'-carboxylic acid methyl ester | 1.641 g, 92% | COC(=O)C=1C=C(C(=C(C1)C1=CC=CC=C1)OCOCCOC)C1=CC=CC=C1 | C24H24O5
